US06414148B1
3-(Methylsulphonyl)propan-1-ol (0.6 g, 4.3 mmol) followed by 1,1′-(azodicarbonyl)dipiperidine (4.2 g, 16 mmol) in portions were added to a stirred solution of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (1.5 g, 4.7 mmol), (prepared as described for the starting material in Example 2), and tributylphosphine (4.0 ml, 16 mmol) in methylene chloride (50 ml) under nitrogen. The mixture was stirred for 18 hours, the resulting precipitate was collected by filtration and dried to give crude product (1.36g). The solvent was removed from the filtrate by evaporation and the residue was purified by column chromatography eluting with methylene chloride/methanol (a gradient from 100/0 to 90/10). The semi-purified product was triturated with acetone and the solid product collected by filtration and dried to give further crude product (0.53 g). The filtrate from the trituration was repurified by column chromatography as before to give freer crude product (0.23 g). The crude products were combined and dissolved in acetone/methanol/methylene chloride and ethereal hydrogen chloride (6 ml of a 1M solution) added. The precipitated product was collected by filtration and recrystalilsed from methanol/methylene chloride/hexane to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(3(methylsulphonyl)propoxy)quinazoline hydrochloride (640 mg, 29%).

reactant | 3-(Methylsulphonyl)propan-1-ol | 4.3 mmol, 0.6 g | CS(=O)(=O)CCCO | C4H10O3S
reactant | 1,1′-(azodicarbonyl)dipiperidine | 16 mmol, 4.2 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 4.7 mmol, 1.5 g | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | tributylphosphine | 16 mmol, 4.0 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | hydrogen chloride | Cl | ClH
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | acetone methanol methylene chloride | CC(=O)C.CO.C(Cl)Cl
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(3(methylsulphonyl)propoxy)quinazoline hydrochloride | 640 mg, 29% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCCS(=O)(=O)C)C=C1)F | InChI=1S/C19H19ClFN3O4S.ClH/c1-27-17-9-13-16(10-18(17)28-6-3-7-29(2,25)26)22-11-23-19(13)24-15-5-4-12(20)8-14(15)21;/h4-5,8-11H,3,6-7H2,1-2H3,(H,22,23,24);1H
